US05149699
5-(2-Bromophenyl)-1H-tetrazole
A mixture of 2-bromobenzonitrile (10.0 g, 0.055 mol), sodium azide (3.9 g, 0.060 mol), ammonium chloride (3.2 g, 0.060 mol), and DMF (90 mL) was heated at 100° C. for 18 h. The mixture was concentrated, taken up in water, and made basic (pH 9) with 1N KOH. The aqueous mixture was extracted with ether (discarded) and acidified with 2N HCl. The precipitate was collected by filtration to give 9.1 g (73%) of product as an off-white solid, mp 179°-181° C.

reactant | 2-bromobenzonitrile | 0.055 mol, 10.0 g | BrC1=C(C#N)C=CC=C1 | C7H4BrN
reactant | sodium azide | 0.060 mol, 3.9 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 0.060 mol, 3.2 g | [Cl-].[NH4+]
solvent | DMF | 90 mL | CN(C)C=O | C3H7NO
product | 5-(2-Bromophenyl)-1H-tetrazole | 9.1 g, 73% | BrC1=C(C=CC=C1)C1=NN=NN1 | C7H5BrN4
